US04791209
A mixture of 5-benzoyl-4,7-dichloro-2,3-dihydrobenzo[b]furan-2-carboxylic acid (2.5 g), hydroxylamine hydrochloride (5.2 g) and pyridine (50 ml) was stirred for 18 hours at 90°-100° C. After cooling, the mixture was rendered acidic with HCl and subjected to extraction with ether. Ether was distilled off and the residual water was removed by azeotropic distillation with benzene, yielding 2.6 g of 4,7-dichloro-2,4-dihydro-5-(α-hydroxyiminobenzyl)benzo[b]furan-2-carboxylic acid. This compound (2.6 g) was dissolved in 20 ml of anhydrous dimethylformamide, and to the ice-cooled solution, 0.9 g of 60% sodium hydride was added in small portions under stirring. After continuing the agitation for 7 hours at room temperature, the mixture was left to stand overnight. After addition of water, the mixture was rendered acidic with HCl and subjected to extraction with ether. The ether layer was washed with water and dried. After distilling off the solvent, the residue was recrystallized with acetonitrile-benzene, yielding 0.9 g of 5-chloro-7,8-dihydro-3-phenylfuro[2,3-g]-1,2-benzisoxazole-7-carboxylic acid. The physical data of this compound were in agreement with those of the product obtained in Example 3.

reactant | 5-benzoyl-4,7-dichloro-2,3-dihydrobenzo[b]furan-2-carboxylic acid | 2.5 g | C(C1=CC=CC=C1)(=O)C1=C(C2=C(OC(C2)C(=O)O)C(=C1)Cl)Cl | C16H10Cl2O4
reactant | hydroxylamine hydrochloride | 5.2 g | Cl.NO
reactant | HCl | Cl | ClH
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 4,7-dichloro-2,4-dihydro-5-(α-hydroxyiminobenzyl)benzo[b]furan-2-carboxylic acid | 2.6 g | ClC1C(=CC(=C2OC(C=C21)C(=O)O)Cl)C(C2=CC=CC=C2)=NO | C16H11Cl2NO4
